US06734180B1
2-(tert-butoxycarbonylamino)-5-hydroxyindan (100 mg, 0.40 mmol) synthesized in Predagation Example 1 was dissolved in dry methylene chloride (2 ml), to which pyridine (0.19 ml, 2.3 mmol) and acetic anhydride (0.11 ml, 1.2 mmol) were added, and the mixture was stirred at room temperature for 2 hours. The reaction mixture then was concentrated under reduced pressure, to which diethylether was added. The organic layer was washed with, in the order of, an aqueous solution of saturated potassium hydrogen sulfate, brine, an aqueous solution of saturated sodium hydrogen carbonate, and brine, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 5-acetoxy-2-(tert-butoxycarbonylamino)indan (120 mg, 0.40 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-hydroxyindan | 0.40 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | pyridine | 2.3 mmol, 0.19 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.2 mmol, 0.11 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 5-acetoxy-2-(tert-butoxycarbonylamino)indan | 0.40 mmol, 120 mg | C(C)(=O)OC=1C=C2CC(CC2=CC1)NC(=O)OC(C)(C)C | C16H21NO4
